US07229999B2
α-(Acetyloxy)-α-methyl-cyclopropaneacetonitrile
To a well stirred and ice-cooled solution of 2-cyclopropyl-2-trimethylsilanyloxy-propionitrile (188.5 g, 1.03 mol) in acetonitrile (1000 mL) was added acetic anhydride (194 mL, 2.06 mol) and scandium trifluoromethanesulfonate (5 g, 10.3 mmol). The temperature rose to ˜10° C. and stirring was continued for 15′ at room temperature. The solvent was evaporated in vacuo and the residue was distilled to yield 138 g of the title compound as colorless liquid, bp: 84–86° C./6 mbar.

reactant | 2-cyclopropyl-2-trimethylsilanyloxy-propionitrile | 1.03 mol, 188.5 g | C1(CC1)C(C#N)(C)O[Si](C)(C)C | C9H17NOSi
reactant | acetic anhydride | 2.06 mol, 194 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | 1000 mL | C(C)#N | C2H3N
catalyst | scandium trifluoromethanesulfonate | 10.3 mmol, 5 g | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | α-(Acetyloxy)-α-methyl-cyclopropaneacetonitrile | 138 g | C(C)(=O)OC(C#N)(C1CC1)C | C8H11NO2
